US07153878B2
3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-butoxy}-phenyl)-propionic acid
3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-but-3-enyloxy}-phenyl)-propionic acid (30 mg, 0.065 mmol), 10% Palladium on charcoal (30 mg) and tetrahydrofuran (30 mL) is stirred under a hydrogen balloon 30 min. The solution is filtered over celite and concentrated in vacuo to afford the title compound, 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-butoxy}-phenyl)-propionic acid as a white solid, 30 mg 100%. MS (M++1) 462.

reactant | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-but-3-enyloxy}-phenyl)-propionic acid | 0.065 mmol, 30 mg | CC1=C(C=CC(=C1)OC(CC=C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)O | C25H24F3NO4
catalyst | Palladium on charcoal | 30 mg | [Pd] | Pd
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-butoxy}-phenyl)-propionic acid | CC1=C(C=CC(=C1)OC(CCC)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)CCC(=O)O | C25H26F3NO4
